US04146721
20 grams 1,3-diphenyl-1,3-propanedione, 4.3 grams of a 50% suspension of sodium hydride in paraffin oil, 20 grams α-bromopropionic acid-ethyl ester and 300 milliliters dimethylformamide were mixed and the mixture was stirred for 20 hours at room temperature and for another 20 hours at 50° C. The reaction mixture containing the 2-methyl-3,3-dibenzoyl-propionic acid-ethyl ester formed in the reaction was worked up in accordance with a procedure analogous to that set out in Example (2b). The crude product obtained thereby was further reacted with 9.0 grams phenylhydrazine and 8 grams glacial acetic acid in accordance with a procedure analogous to that described in Example (2c). The crude pyrazol ester obtained in this manner was saponified to form the free acid in a procedure analogous to that set above. 5.7 grams Methyl-1,3,5-triphenyl-pyrazol-4-acetic acid, melting at 95°-99° C. were obtained, corresponding to a yield of 17% based on the diketone starting material.

reactant | 1,3-diphenyl-1,3-propanedione | 20 grams | C1(=CC=CC=C1)C(CC(=O)C1=CC=CC=C1)=O | C15H12O2
reactant | sodium hydride | [H-].[Na+]
reactant | α-bromopropionic acid-ethyl ester | 20 grams | C(C)OC(C(C)Br)=O | C5H9BrO2
reactant | 2-methyl-3,3-dibenzoyl-propionic acid-ethyl ester | C(C)OC(C(C(C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O)C)=O | C20H20O4
reactant | phenylhydrazine | 9.0 grams | C1(=CC=CC=C1)NN | C6H8N2
solvent | acetic acid | 8 grams | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 300 milliliters | CN(C=O)C | C3H7NO
product | Methyl-1,3,5-triphenyl-pyrazol-4-acetic acid | 5.7 grams, yield of 17% | CC(C(=O)O)C=1C(=NN(C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C24H20N2O2
